US07230023B2
(5) (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 3-[[bis(allyloxy)phosphoryl]oxymethyl]-2-thenoate
A solution of 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile (699.1 mg, 1.29 mmol) described in Reference example 1 in 1,2-dimethoxyethane (10 ml) was cooled to 0° C., and sodium hydride (55% dispersion in mineral oil; 67.5 mg, 1.55 mmol) was added thereto, and the resulting mixture was stirred at room temperature for 3 hours. To the mixture was added a solution of the crude 3-[[bis(allyloxy)phosphoryl]oxymethyl]-2-thenoyl chloride obtained above in 1,2-dimethoxyethane (2 ml), and the mixture was stirred at room temperature for 20 minutes and cooled to 0° C., then a phosphate buffer solution (pH 7) was added to the reaction mixture to stop the reaction, and the product was extracted with ethyl acetate. The crude product was subjected to chromatography on a silica gel (40 g) column (eluent; ethyl acetate:hexane=3:2˜5:1) to give the title compound (520.6 mg, 48% yield) as a pale yellow amorphous solid.

reactant | 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile | 1.29 mmol, 699.1 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)/C=C/C=C/C1=C(C=C(C#N)C=C1)F)(CN1N=CN=C1)O | C27H25F3N4O3S
reactant | sodium hydride | 1.55 mmol, 67.5 mg | [H-].[Na+]
reactant | 3-[[bis(allyloxy)phosphoryl]oxymethyl]-2-thenoyl chloride | C(C=C)OP(=O)(OCC=C)OCC1=C(SC=C1)C(=O)Cl | C12H14ClO5PS
reactant | phosphate | pH 7 | P(=O)([O-])([O-])[O-]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
product | (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 3-[[bis(allyloxy)phosphoryl]oxymethyl]-2-thenoate | 520.6 mg, 48% yield | C(C=C)OP(=O)(OCC=C)OCC1=C(SC=C1)C(=O)O[C@@]([C@@H](C)S[C@H]1CO[C@@H](OC1)\C=C\C=C\C1=C(C=C(C=C1)C#N)F)(CN1N=CN=C1)C1=C(C=C(C=C1)F)F | C39H38F3N4O8PS2
